* C:\users\brian\Documents\projects\power-supply-PCM\spice\schematics\Pmux-switch-regulation-test-1.asc
V1 C0 0 PULSE(0 5 0 10u 10u 1 2)
V4 LVdd 0 5
V5 HVss1 0 36
RL HVdd 0 1k
C1 HVdd N001 10µ
V6 HVss2 0 24
XX2 C0 LVdd HVss1 HVss2 LVdd HVdd LVdd pmux-2ch
R1 N001 0 10k

* block symbol definitions
.subckt pmux-2ch C0 EN HVss0 HVss1 ~LOCK HVo LVdd
C2 HVss1 0 10µ
D2 N004 HVo MBRS360
D1 N001 HVo MBRS360
C4 ~CS0 0 100n
C1 HVss0 0 10µ
C5 N006 0 0.1µ
XX1 C0 ~LOCK LVdd CS0 ~CS0 cmos_dlatch
XX2 HVss0 N003 N001 9530n_pmos_hss
XX3 HVss1 N006 N004 9530n_pmos_hss
XX4 ~CS0 EN 0 LVdd N002 cmos_nand
XX5 CS0 EN 0 LVdd N005 cmos_nand
XX6 N002 0 LVdd N003 cmos_inv
XX7 N005 0 LVdd N006 cmos_inv
.ends pmux-2ch

.subckt cmos_dlatch D EN Vss Q ~Q
XX2 N003 ~Q 0 Vss Q cmos_nor
XX3 Q N005 0 Vss ~Q cmos_nor
XX4 N002 0 Vss N003 cmos_inv
XX5 N004 0 Vss N005 cmos_inv
XX6 N001 EN 0 Vss N002 cmos_nand
XX7 EN D 0 Vss N004 cmos_nand
XX8 D 0 Vss N001 cmos_inv
.ends cmos_dlatch

.subckt 9530n_pmos_hss Vss Vbb Vdd
XU3 Vdd N001 Vss 9530n
Q1 N001 Vbb N002 0 2N3904
R3 Vss N001 10k
D1 N001 Vss TFZ18B
R2 N002 0 330
.ends 9530n_pmos_hss

.subckt cmos_nand A B Vdd Vss Out
M3 Out A N003 Vdd NMOD1 l=1u w=50u
M4 N003 B Vdd Vdd NMOD1 l=1u w=50u
M1 Vss A Out N001 PMOD1 l=1u w=50u
M2 Vss B Out N002 PMOD1 l=1u w=50u
.model PMOD1 pmos (KP=100u GAMMA=0.9 phi=0.6 lambda=0.02 VTO=-0.7)
.model NMOD1 nmos (KP=200u GAMMA=0.9 phi=0.6 lambda=0.02 VTO=0.7)
.ends cmos_nand

.subckt cmos_inv A Vdd Vss Out
M3 Out A Vdd N002 NMOD1 l=1u w=25u
M2 Vss A Out N001 PMOD1 l=1u w=100u
.model PMOD1 pmos (KP=100u GAMMA=0.9 phi=0.6 lambda=0.02 VTO=-0.7)
.model NMOD1 nmos (KP=200u GAMMA=0.9 phi=0.6 lambda=0.02 VTO=0.7)
.ends cmos_inv

.subckt cmos_nor A B Vdd Vss Out
M3 Out A Vdd N002 NMOD1 l=1u w=25u
M4 Out B Vdd N003 NMOD1 l=1u w=25u
M1 Vss A N001 Vss PMOD1 l=1u w=100u
M2 N001 B Out Vss PMOD1 l=1u w=100u
.model PMOD1 pmos (KP=100u GAMMA=0.9 phi=0.6 lambda=0.02 VTO=-0.7)
.model NMOD1 nmos (KP=200u GAMMA=0.9 phi=0.6 lambda=0.02 VTO=0.7)
.ends cmos_nor

.model D D
.lib C:\users\brian\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 4 0 0.01s
* Power Multiplexer (PMux) SR (no-control) Test
* Test inputs to control the open/closed state of\n2 HV MOSFET switches
* Load
* 1b Power Mux
* Copyright © 2023 Brian Costantino\n \nThis file is a part of DynaVolt.\n \nDynaVolt is a free hardware design: you can redistribute it and/or modify \nit under the terms of the CERN Open Hardware License (OHL) v2.\n \nDynaVolt is distributed in the hope that it will be useful, but WITHOUT \nANY WARRANTY; without even the implied warranty of MERCHANTABILITY\nor FITNESS FOR A PARTICULAR PURPOSE. See ~/LICENSE for more details.\n \nYou should have received a copy of the CERN-OHL-W v2 along with this \nrepository. If not, see https://ohwr.org/cern_ohl_w_v2.tx
* Pinout:\n       LVdd     logic voltage\n       C0          digital control voltage\n       EN          switch enable\n    ~LOCK     lock switch in last state\n       HVssi     high-voltage input #i\n       HVo        switched high-voltage output
.lib 9530n.spi
.backanno
.end
